US08664380B2
tert-butyl (3R,5S)-3-carbamoyl-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate
A solution of (3R,5S)-1-(tert-butoxycarbonyl)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-3-carboxylic acid (540 mg), 1H-1,2,3-benzotriazol-1-ol ammonium salt (345 mg) and WSC.HCl (383 mg) in DMF (10 ml) was stirred at room temperature for 24 hr, and the mixture was poured into water and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (1:9-1:0) was concentrated under reduced pressure to give the object product (270 mg).

reactant | (3R,5S)-1-(tert-butoxycarbonyl)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-3-carboxylic acid | 540 mg | C(C)(C)(C)OC(=O)N1C[C@@H](C[C@@H](C1)N(CC(C)C)C(=O)C1=NC2=C(N1CCCCOC)C=CC=C2)C(=O)O | C28H42N4O6
reactant | 1H-1,2,3-benzotriazol-1-ol ammonium salt | 345 mg | [NH4+].N1(N=NC2=C1C=CC=C2)O
reactant | WSC.HCl | 383 mg | CCN=C=NCCCN(C)C.Cl
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | tert-butyl (3R,5S)-3-carbamoyl-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate | 270 mg | C(N)(=O)[C@H]1CN(C[C@H](C1)N(CC(C)C)C(=O)C1=NC2=C(N1CCCCOC)C=CC=C2)C(=O)OC(C)(C)C | C28H43N5O5
